US20010021718A1
Ethyl 2-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,3-oxazole-4-carboxylate
A solution of (3R)-6-cyclohexyl-3-[4-(ethoxycarbonyl)-1,3-oxazol-2-yl]hexanoic acid (Preparation 63) (130 mg, 0.39 mmol) and N,N-diisopropylethylamine (67 μl, 0.39 mmol) in N,N-dimethylformamide (6 ml) was treated with O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (220 mg, 0.58 mmol) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 45 minutes. Further N,N-diisopropylethylamine (270 μl, 1.54 mmol) was then added, followed by hydroxylamine hydrochloride (80 mg, 1.16 mmol) and the mixture was stirred at room temperature for 18 hours. The solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and pH 7 aqueous buffer. The organic layer was separated, washed sequentially with water and brine, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (99:1) gradually changing to dichloromethane:methanol (98:2) to afford the title compound (20 mg).

reactant | (3R)-6-cyclohexyl-3-[4-(ethoxycarbonyl)-1,3-oxazol-2-yl]hexanoic acid | 0.39 mmol, 130 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C=1OC=C(N1)C(=O)OCC | C18H27NO5
reactant | N,N-diisopropylethylamine | 0.39 mmol, 67 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.58 mmol, 220 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 1.54 mmol, 270 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydroxylamine hydrochloride | 1.16 mmol, 80 mg | Cl.NO
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,3-oxazole-4-carboxylate | 20 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C=1OC=C(N1)C(=O)OCC | C18H28N2O5
